************************************** 
* SPICE STIMULI FILE 
* generated from 
************************************** 

Vvss vss 0 PWL 0n 0 
Ven en 0 PWL 0n 0 100n 0 101n VCC 400n VCC 401n 0 600n 
+0 601n VCC 869n VCC 870n 0 1269n 0 1270n VCC 1658n VCC 1659n 0 
Vvcc vcc 0 PWL 0n VCC 

