************************************** 
* SPICE STIMULI FILE 
* generated from 
************************************** 

Vthreshv threshv 0 PWL 0n 0.6 
Vvss vss 0 PWL 0n 0 
Vinput input 0 PWL 0n 0.1 600n 0.1 601n 0.75 800n 0.75 801n 1.0 1000n 
+1.0 1001n 0.4 1200n 0.4 1201n 0.2 1800n 0.2 1801n 0.4 2000n 0.4 2001n 0.8 
+2200n 0.8 2201n 0.5 2400n 0.5 2401n 0.7 2600n 0.7 2601n 0.3 
Ven_n en_n 0 PWL 0n 0 
Vcalib calib 0 PWL 0n 0 200n 0 201n VCC 400n VCC 401n 0 1400n 
+0 1401n VCC 1600n VCC 1601n 0 
Vvcc vcc 0 PWL 0n VCC 

