************************************** 
* SPICE STIMULI FILE 
* generated from 
************************************** 

Vvss vss 0 PWL 0n 0 
Ven_n en_n 0 PWL 0n 0 
Vcalib calib 0 PWL 0n 0 200n 0 201n VCC 700n VCC 701n 0 
Vinput_a input_a 0 PWL 0n 0.1 900n 0.1 901n 0.6 
Vvcc vcc 0 PWL 0n VCC 

