************************************** 
* SPICE STIMULI FILE 
* generated from 
************************************** 

Vvss vss 0 PWL 0n 0 
Ven_n en_n 0 PWL 0n VCC 100n VCC 101n 0 
VCALIBTHRESH CALIBTHRESH 0 PWL 0n VTHRESH 
Vminus minus 0 PWL 0n VTHRESH 
Vstart start 0 PWL 0n VCC 200n VCC 201n 0 800n 0 801n VCC 
Vvcc vcc 0 PWL 0n VCC 

