************************************** 
* SPICE STIMULI FILE 
* generated from 
************************************** 

Vvss vss 0 PWL 0n 0 
Va a 0 PWL 0n 0 200n 0 201n VCC 400n VCC 401n 0 
Vvcc vcc 0 PWL 0n VCC 

