************************************** 
* SPICE STIMULI FILE 
* generated from 
************************************** 

Vvss vss 0 PWL 0n 0 
Vsel sel 0 PWL 0n 0 200n 0 201n VCC 800n VCC 801n 0 
Vin0 in0 0 PWL 0n 0.5 600n 0.5 601n 1.7 
Vin1 in1 0 PWL 0n 1.2 400n 1.2 401n 0.9 
Vvcc vcc 0 PWL 0n VCC 

