************************************** 
* SPICE STIMULI FILE 
* generated from 
************************************** 

Vvss vss 0 PWL 0n 0 
Vinput input 0 PWL 0n 1.2 1440n 1.2 1441n 0.6 2440n 0.6 2441n 0.9 3440n 
+0.9 3441n 1.2 4440n 1.2 4441n 0.4 5940n 0.4 5941n 0.6 6940n 0.6 6941n 0.7 
Ven_n en_n 0 PWL 0n 0 
Vb3 b3 0 PWL 5440n VCC 
Vb4 b4 0 PWL 2440n 0 4440n 0 4441n VCC 
Vb5 b5 0 PWL 2440n 0 3440n 0 3441n VCC 4440n VCC 4441n 0 
Vvcc vcc 0 PWL 0n VCC 
Vb6 b6 0 PWL 2440n 0 2441n VCC 3440n VCC 3441n 0 6440n 0 6441n 
+VCC 
Vextthresh extthresh 0 PWL 0n 0.8 
Vb7 b7 0 PWL 0n VCC 2440n VCC 2441n 0 
Vuseext useext 0 PWL 0n 0 
Vcal cal 0 PWL 0n 0 40n 0 41n VCC 440n VCC 441n 0 

